US08314097B2
3-Fluoro-4-(5-iodo-imidazol-1-ylmethyl)benzonitrile
A mixture of 4-iodo-1-trityl-1H-imidazole (17.1 g, 39.2 mmol) and 4-bromomethyl-3-fluorobenzonitrile (9.65 g, 45.08 mmol) in 150 mL of dry actetonitrile is stirred at room temperature for 7 days. After concentration, the residue is mixed with methanol, and heated to reflux for 1.5 h. The solvent is subsequently removed and the residue is treated with 1M HCl (300 mL). The resulting suspension is filtered and the washed with HCl (1M). The combined solution is adjusted to PH 9-10 by saturated NaHCO3 solution. The resulting precipitation is collected by filtration, dried in vacuum oven. MS (ESI) m/z (M+H) 328.1.

reactant | 4-iodo-1-trityl-1H-imidazole | 39.2 mmol, 17.1 g | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | 4-bromomethyl-3-fluorobenzonitrile | 45.08 mmol, 9.65 g | BrCC1=C(C=C(C#N)C=C1)F | C8H5BrFN
product | 3-Fluoro-4-(5-iodo-imidazol-1-ylmethyl)benzonitrile | FC=1C=C(C#N)C=CC1CN1C=NC=C1I | C11H7FIN3
